US08497376B2
c) 5-Nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-pyridine
The title compound was prepared from 4,4,5,5-tetramethyl-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-[1,3,2]dioxaborolane (as prepared in the previous step) and 2-bromo-5-nitro-pyridine according to the procedure of Example 15, step (c). Mass spectrum (ESI, m/z): Calcd. for C14H18N2O2S, 279.1 (M+H), found 279.2.

reactant | 4,4,5,5-tetramethyl-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C=1CC(SC(C1)(C)C)(C)C)C | C15H27BO2S
reactant | 2-bromo-5-nitro-pyridine | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
product | 5-Nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(SC(C1)(C)C)(C)C | C14H18N2O2S
